US07449477B2
3-[5-Chloro-2-(3-oxopropyl)-phenoxy]-pyrrolidine-1-carboxylic acid tert butyl ester
To a stirred solution of 4-chloro-2-fluoro-1-nitrobenzene (2 g, 11.40 mmol) and 3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester in 40 mL of anhydrous DMF, add NaH (0.55 g, 22.79 mmol) at 0° C. in portions. Stir the mixture at room temperature for 1 h, then, pour into ice-water, extract with EtOAc (3×50 mL), dry over MgSO4 and evaporate to afford the compound pure enough to use in the following step without further purification (yellow solid, 4.15 g). Follow a procedure similar to preparation 49 substituting 3-(5-chloro-2-nitro-phenoxy)-pyrrolidine-1-carboxylic acid tert butyl ester for 1-(5-chloro-2-nitro-phenyl)-pyrrolidine to prepare the title compound.

reactant | 4-chloro-2-fluoro-1-nitrobenzene | 11.40 mmol, 2 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | 3-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)O | C9H17NO3
reactant | NaH | 22.79 mmol, 0.55 g | [H-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-[5-Chloro-2-(3-oxopropyl)-phenoxy]-pyrrolidine-1-carboxylic acid tert butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=CC(=C1)Cl)CCC=O | C18H24ClNO4
